US07122548B2
General procedure A was followed with the reaction of oxo-thiophen-2-yl-acetaldehyde and 4-(4,5-diamino-4H-[1,2,4]triazol-3-ylmethyl)-phenol to provide 4-(7-thiophen-2-yl-[1,2,4]triazolo[4,3-b][1,2,4]triazin-3-ylmethyl)-phenol and the desired product 4-(6-thiophen-2 -yl[1,2,4]triazolo[4,3-b][1,2,4]triazin-3-ylmethyl)-phenol (example 2).

reactant | oxo-thiophen-2-yl-acetaldehyde | O=C(C=O)C=1SC=CC1 | C6H4O2S
reactant | 4-(4,5-diamino-4H-[1,2,4]triazol-3-ylmethyl)-phenol | NN1C(=NN=C1N)CC1=CC=C(C=C1)O | C9H11N5O
product | 4-(7-thiophen-2-yl-[1,2,4]triazolo[4,3-b][1,2,4]triazin-3-ylmethyl)-phenol | S1C(=CC=C1)C1=NC=2N(N=C1)C(=NN2)CC2=CC=C(C=C2)O | C15H11N5OS
